US06933295B2
Starting with tert-butyl {3′-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-4-fluoro[1,1′-biphenyl]-3-yl}methylcarbamate, by treating the crude product with etheral hydrochloric acid solution, it is possible to obtain N-(2-{[3′-(aminomethyl)-4′-fluoro[1,1′-biphenyl]-3-yl]methyl}-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-5-chloro-2-thiophenecarboxamide hydrochloride.

reactant | tert-butyl {3′-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-4-fluoro[1,1′-biphenyl]-3-yl}methylcarbamate | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC=1C=C(C=CC1)C1=CC(=C(C=C1)F)CNC(OC(C)(C)C)=O)=O | C32H27ClFN3O5S
reactant | hydrochloric acid | Cl | ClH
product | N-(2-{[3′-(aminomethyl)-4′-fluoro[1,1′-biphenyl]-3-yl]methyl}-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-5-chloro-2-thiophenecarboxamide hydrochloride | Cl.NCC=1C=C(C=CC1F)C1=CC(=CC=C1)CN1C(C2=CC=CC(=C2C1=O)NC(=O)C=1SC(=CC1)Cl)=O | InChI=1S/C27H19ClFN3O3S.ClH/c28-23-10-9-22(36-23)25(33)31-21-6-2-5-19-24(21)27(35)32(26(19)34)14-15-3-1-4-16(11-15)17-7-8-20(29)18(12-17)13-30;/h1-12H,13-14,30H2,(H,31,33);1H
